US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 84% yield: 1H NMR (300 MHz, DMSO-d6) δ 3.96-3.91 (m, 2H), 3.85-3.78 (m, 1H), 3.65-3.54 (m, 2H), 3.46-3.34 (m, 1H), 3.32-3.24 (m, 1H), 3.17-3.09 (m, 2H), 2.47 (s, 3H), 1.86-1.70 (m, 1H), 1.49-1.37 (m, 4H), 1.18-1.04 (m, 1H); MS (ES+) m/z 326.3 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CC1OCCCC1)=O | C16H23N3O4S
product | 4-methyl-2-(2-oxo-3-((tetrahydro-2H-pyran-2-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | 84% yield | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1OCCCC1)=O | C14H19N3O4S
